US08039463B2
NaOH (57 mg, 1.4 mmol) was added to a stirred solution of N-(3-phenyl-isoxazol-5-yl)-malonamic acid ethyl ester (78 mg, 0.28 mmol) in a mixture of THF (12 mL) and H2O (12 mL) and stirring was continued at ambient temperature overnight. The reaction mixture was concentrated. The residue was diluted with water, washed with diethyl ether, acidified with concentrated HCl. The precipitate was filtered to afford 45 mg (64.28% Yield) of N-(3-phenyl-isoxazol-5-yl)-malonamic acid.

reactant | NaOH | 1.4 mmol, 57 mg | [OH-].[Na+]
reactant | N-(3-phenyl-isoxazol-5-yl)-malonamic acid ethyl ester | 0.28 mmol, 78 mg | C(C)OC(CC(=O)NC1=CC(=NO1)C1=CC=CC=C1)=O | C14H14N2O4
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | H2O | 12 mL | O | H2O
product | N-(3-phenyl-isoxazol-5-yl)-malonamic acid | 45 mg, 64.28% Yield | C1(=CC=CC=C1)C1=NOC(=C1)NC(CC(=O)O)=O | C12H10N2O4
